US07214802B2
A mixture of 4-methyl-3-(2-oxo-2-pyridin-3-yl-ethylamino)-benzoic acid methyl ester (84.5 mg; 0.297 mmol) and KSCN (58 mg; 0.59 mmol) in 1.5 mL of HOAc were heated to 100° C. for 2 h. The mixture was then poured into water and carefully brought to pH 8 with NaOH. The mixture was immediately extracted with EtOAc, and the extract washed with brine. The washes were extracted once more with EtOAc, and the combined extracts were dried with Na2SO4, filtered, and concentrated to provide 3-(2-mercapto-4-pyridin-3-yl-imidazol-1-yl)-4-methyl-benzoic acid methyl ester (90 mg; 0.28 mmol; 93%). ESI MS m/z 326 [C17H15N3O2S+H]+.

reactant | 4-methyl-3-(2-oxo-2-pyridin-3-yl-ethylamino)-benzoic acid methyl ester | 0.297 mmol, 84.5 mg | COC(C1=CC(=C(C=C1)C)NCC(C=1C=NC=CC1)=O)=O | C16H16N2O3
reactant | KSCN | 0.59 mmol, 58 mg | C(#N)[S-].[K+]
reactant | water | O | H2O
reactant | NaOH | [OH-].[Na+]
solvent | HOAc | 1.5 mL | CC(=O)O | C2H4O2
product | 3-(2-mercapto-4-pyridin-3-yl-imidazol-1-yl)-4-methyl-benzoic acid methyl ester | 0.28 mmol, 90 mg, 93% | COC(C1=CC(=C(C=C1)C)N1C(=NC(=C1)C=1C=NC=CC1)S)=O | C17H15N3O2S
